Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal distention; admission for planned cecostomy tube 
placement
 
Major Surgical or Invasive Procedure:
Cecostomy Tube Insertion

 
History of Present Illness:
The patient is a ___ y/o male with medical history notable
for metastatic rectal cancer who had developed ___ syndrome.
Oncologic history notable for recurrent metastatic disease s/p
proctectomy and complicated by development of 
pseudo-obstruction.
The latter of which culminated in his recent admission to the
hospital under the OMED service after having presented with c/o
abdominal distention. 

He was seen this afternoon, following his procedure. He 
tolerated
the procedure well and cecostomy was draining appropriately.

He denies any fevers, chills, n/v at this time. Additionally
denies chest pain, dyspnea, headache.

 
Past Medical History:
PAST MEDICAL HISTORY:  
 -Rectal carcinoma IIIB (T___) KRAS wild type w/progressive  
 metastatic disease s/p neoadjuvant chemotherapy and proctectomy 
 
 -Liver mets from rectal cancer s/p right hepatic lobectomy and  

 Y-90 to remnant left lobe  
 -Gout  
 PAST SURGICAL HISTORY:  
 -Right hepatic lobectomy for metastatic rectal cancer and 
Cholecystectomy ___  
 -Resection of ileostomy and reanastomosis ___  
 -Laparoscopic proctectomy ___  
 -Accidental partial finger amputation in ___  
 -Appendectomy at age ___  

ONCOLOGIC HISTORY:
Rectal carcinoma IIIB (T3N1M0) KRAS w/t with progressive
metastatic disease
- ___ noticed a change in the stool caliber.    
- ___ Colonoscopy at ___ in ___ 
revealed
a large rectal mass. Staging CTs reportedly raised concern about
possible liver metastases. 
- ___ Dr. ___ repeat colonoscopy and
endoscopic ultrasound which revealed "an infiltrative and
ulcerated circumferential mass of malignant appearance extending
from the dentate line to the rectosigmoid junction, 
approximately
10 cm in length."  Endoscopic ultrasound demonstrated invasion 
of
the muscularis propria with a few pseudopodia along the outer
border, where the tumor appeared to extend beyond the muscularis
propria.  No evidence of prostate, seminal vesicle or bladder
invasion was detected.  A perirectal, hypoechoic and homogeneous
lymph node could not be sampled as the aspirating needle would
have had to traverse the primary lesion and risk contamination. 
Repeat staging CT at ___ demonstrated no evidence of 
metastatic
disease including the in liver. 
-  ___ and ___ Neoadjuvant Fluorouracil 225 mg/m2 with
concomitant XRT
- ___ Underwent laparoscopic proctectomy with hand sewn
coloanal anastomosis and diverting loop ileostomy
- ___ Resection of ileostomy and reanastomosis
- ___ C1D1 FOLFOX6
- ___ C2D1 FOLFOX6
- ___ C3D1 FOLFOX6
- ___ C4D1 modified FOLFOX (Oxaliplatin 68 mg/m2 reduced 
for
neuropathy)
- ___ C5D1 modified FOLFOX (Oxaliplatin 55.25 mg/m2 reduced
for neuropathy, ___ 320 mg/m2 reduced for cytopenias)
- ___ C6D1 modified FOLFOX (Oxaliplatin 55.25 mg/m2 reduced
for neuropathy, ___ 320 mg/m2 and ci5FU ___ mg/m2 reduced for
cytopenias)
- ___ ___ on imaging
- ___ CT Torso: ___
- ___ Colonoscopy with a hyperplastic polyp
- ___ Lost to follow up. Presented for clinical 
evaluation
feeling well, but with CEA elevated to 553
- ___ CT torso showed a large liver mass involving
segments 6 and 7 concerning for metastatic disease
- ___ Underwent resection of the large R lobe liver
metastasis. Pathology confirmed adenocarcinoma. Margins were
negative but intraoperative US concerning for an additional 
focus
of disease in the liver no accessible for resection. 
- ___ Post op CEA down to 58 from 553 but not normalized
- ___ C1D1 FOLFOX6, CEA 19
- ___ C2D1 FOLFOX6, CEA down to 14
- ___ MR abdomen showed within the remnant left hepatic
lobe at least 5 new lesions are identified which demonstrate MR
features concerning for metastatic disease. 
- ___ Hold chemo for pancytopenia
- ___ C1D1 FOLFIRI + Neulasta
- ___ Y90 TACE
- ___ C2D1 FOLFIRI + Neulasta
- ___ Chemo held for thrombocytopenia
- ___ C2D15 dose of FOLFIRI (no bolus ___, LV 200 mg/m2) 
+
Neulasta, dose reduced for thrombocytopenia
- ___ C3D1 FOLFIRI (no bolus ___, LV 200 mg/m2) + 
Neulasta
- ___ MR liver showed good response to Y90.  Holding
chemotherapy until progression. 
- ___ MR liver showed mixed response to Y-90 therapy 
since
the prior MRI. There is a single new metastatic lesion, interval
growth of 1 metastatic lesion, and interval decrease in size of
numerous other hepatic metastases. New 7 mm right lung base
nodule is compatible with metastasis. 
- ___ C1D1 FOLFIRI + Neulasta
- ___ C2D1 FOLFIRI + Neulasta
- ___ CT torso showed stable disease with a small new
pulmonary nodule
- ___ C3D1 FOLFIRI Bevacizumab + Neulasta
- ___ Chemo held for ascites, paracentesis showed benign
hepatic ascites
- ___ CT torso showed minimal progression of disease
- ___ C1D1 capecitabine ___ mg BID D1-14 bevacizumab 7.5
mg/kg D1
- ___ C2D1 capecitabine ___ mg BID D1-14 bevacizumab 7.5
mg/kg D1, preconsent for ___ PDL1 testing
- ___ C3D1 capecitabine ___ mg BID D1-14 bevacizumab 7.5
mg/kg D1, capecitabine stopped due to severe diarrhea
- ___ CT torso showed stable disease
- ___ C1D1 ___ de Gramont + Bevacizumab
- ___ C2D1 ___ de Gramont + Bevacizumab
- ___ Hold chemo for diarrhea
- ___ CT torso shows progression of liver mets
- Treatment hold while seen by ___ to optimize liver
function
- ___ Colonoscopy shows perirectal irritation
- ___ MRCP shows growing liver mets
- ___ CT torso shows progression of liver mets and
questionable new microscopic omental disease; stable colon
dilation 
- ___ C1D1 ___ de Gramont
- ___ C2D1 ___ de Gramont
- ___ CT torso stable with stable colonic ileus
- ___ C2D15 de Gramont/C1D1 cetuximab 500 mg/m2
- ___ C1D15 cetuximab 300 ___ HFS, delayed for
HFS/fatigue
- ___ C2D1 cetuximab 300 mg/m2 D1, D15
- ___ CT torso shows decrease in liver mets
- ___ C3D1 cetuximab 300 mg/m2 D1, D15
- ___ C4D1 cetuximab 300 mg/m2 D1, D15
- ___ CT torso increase in size and number of liver mets
- ___ C3D1 modified de Gramont (no ___, LV 200 mg/m2) +
Bevacizumab
- ___ New baseline CT torso did show progression off 
chemo
- ___ C4D1 modified de Gramont (no ___, LV 200 mg/m2) +
Bevacizumab
- ___ C4D15 held per patient request. CT torso obtained
which shows progression of liver mets and stable lung mets

 
Social History:
___
Family History:
Mother with breast cancer. Brother with ___
 
Physical Exam:
Admission Physical Exam
VITALS: Afebrile and vital signs stable (see eFlowsheet)
Gen: cooperative, engaged/alert, no distress
Neuro: nonfocal examination, CN II-XII grossly intact
Psych: appropriate affect/response without delirium
EENT: moist oral mucosa, subtle scleral icterus without
conjunctival pallor
Neck: soft without jvd
CV: rrr s1/s2 without m/r/g
Pulm: clear bilaterally normal depth/effore
Abd: distended abd but soft, nontender, bowel sounds present but
hypoactive and high pitched
MSK: normal bulk/tone, moving all ext; thin but without focal
atrophy
Skin: warm, dry
Ext: trace bilateral edema present

______________________________________

Discharge Physical Exam
VITALS: Afebrile and vital signs stable (see eFlowsheet)
Gen: cooperative, engaged/alert, no distress; frail cachectic 
appearance
Neuro: nonfocal examination, CN II-XII grossly intact
Psych: appropriate affect/response without delirium
EENT: moist oral mucosa, subtle scleral icterus without
conjunctival pallor
Neck: soft without jvd
CV: rrr s1/s2 without m/r/g
Pulm: clear bilaterally normal depth/effort
Abd: soft, nontender, nondistended, bowel sounds present; 
cecostomy tube in place at RLQ with good output/drainage
MSK: normal bulk/tone, moving all ext; thin but without focal
atrophy
Skin: warm, dry
Ext: no c/c/e

 
Brief Hospital Course:
Mr. ___ is a ___ male with the past medical 
history and findings noted above who presents post-procedurally 
following cecostomy tube placement due to
___ syndrome as a complication of his recurrent metastatic 
rectal cancer. 

ACUTE/ACTIVE PROBLEMS:
#Recurrent, Metastatic Rectal Cancer complicated by ___ 
Syndrome
- Planned admission for cecostomy tube placement by advanced 
endoscopy team. The patient is s/p cecostomy tube insertion, 
tolerated procedure well and is much more comfortable 
post-procedure. Admission plan of care was to admit under 
observation status and post-procedural monitoring. Started on IV 
antimicrobial coverage per advanced endoscopy team with 
metronidazole and ciprofloxacin for a planned 5 day course. He 
tolerated a trial of clears and was advanced on his diet as he 
was able to tolerate. Cecostomy tube care: flush cecostomy tube 
with warm water twice
daily, vent as needed to gravity bag. ___ services requested to 
assist with management initially and to provide patient and 
family with instruction/education for care/management.

#Severe Protein Calorie Malnutrition / Frail, Cachectic 
Appearance
- Severe malnutrition related to recurrent metastatic rectal 
cancer as evidenced by 25% weight loss in <12 months and <=75% 
energy intake compared to estimated energy needs for >=1 month. 
- Interventions/Recommendations: Encourage PO intake and 
adequate protein at all meals. Oral nutrition supplement: Ensure 
Enlive Frappe TID. Consider 2 L fluid restriction should 
hyponatremia persist. Add MVI as medically able. Trend standing 
scale weights ___ 

CHRONIC/STABLE PROBLEMS:
#Cirrhosis complicated by portal hypertension
- Stable chronic condition. Continued with home medication 
regimen.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
2. Diphenoxylate-Atropine 1 TAB PO Q6H:PRN diarrhea 
3. Ferrous Sulfate 325 mg PO DAILY 
4. LOPERamide 2 mg PO TID:PRN diarrhea 
5. Omeprazole 20 mg PO BID 
6. Ondansetron 8 mg PO Q8H:PRN nausea 
7. Prochlorperazine 10 mg PO Q6H:PRN nausea 
8. Spironolactone 100 mg PO BID 
9. Torsemide 20 mg PO BID 
10. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 5 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*10 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H Duration: 5 Days 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*15 Tablet Refills:*0 
3.  Omeprazole 20 mg PO BID  
4.  Spironolactone 100 mg PO BID  
5.  Torsemide 20 mg PO BID  
6. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
7. Diphenoxylate-Atropine 1 TAB PO Q6H:PRN diarrhea 
8. Ferrous Sulfate 325 mg PO DAILY 
9. LOPERamide 2 mg PO TID:PRN diarrhea 
10. Ondansetron 8 mg PO Q8H:PRN nausea 
11. Prochlorperazine 10 mg PO Q6H:PRN nausea 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
#Recurrent, Metastatic Rectal Cancer complicated by ___
Syndrome
#Severe Protein Calorie Malnutrition / Frail, Cachectic 
Appearance

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
The patient is being discharged with instruction to follow-up 
with his oncologist. Appointments are listed below. Per 
discussion with GI, there is no specific recommendation for 
follow-up with them, however, please feel free to schedule an 
appointment if so desired. No new medications are being 
prescribed at this time. No medications have been discontinued. 

___ services for assistance in the initial days post-procedure 
for cecostomy tube drainage management and instruction for care 
has been requested.

Please continue taking all medications as prescribed unless 
instructed differently
 
Followup Instructions:
___